US07276516B2
4-{[4-(3-Phenyl-indole-1-sulfonyl)-benzoylamino]-methyl}-N,N,-dimethyl-benzamide
Combine 4-{[4-(3-Phenyl-indole-1-sulfonyl)-benzoylamino]-methyl}-benzoic acid (0.489 mmole) with dimethylamine (0.587 mmole), and EDC (0.733 mmole) in 5 ml of dichloromethane and stir for 15 hrs. Dilute □eaction and wash with 1 N HCl. Dry organic layer over MgSO4 and concentrate. Purify the residue via column chromatography with a mixture of ethyl acetate and dichloromethane to isolate 0.040 g (15.2%) of the title compound: MSES+ 537.95; MSES− 536.08.

reactant | 4-{[4-(3-Phenyl-indole-1-sulfonyl)-benzoylamino]-methyl}-benzoic acid | 0.489 mmole | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2=CC=C(C(=O)O)C=C2)C=C1 | C29H22N2O5S
reactant | dimethylamine | 0.587 mmole | CNC | C2H7N
reactant | EDC | 0.733 mmole
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-{[4-(3-Phenyl-indole-1-sulfonyl)-benzoylamino]-methyl}-N,N,-dimethyl-benzamide | 0.040 g, 15.2% | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2=CC=C(C(=O)N(C)C)C=C2)C=C1 | C31H27N3O4S
